US06211199B1
106.1 Synthesis of 1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-(2-(4-(1-(fur-3-ylmethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-phenylpyrrolidine
Prepare by the method of Example 102.1 using (1-(fur-3-ylmethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine and 1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-phenyl-3-(2-methanesulfonyloxyethyl)pyrrolidine (prepared from (−)-3-(2-hydroxyethyl)-3-phenylpyrrolidine (R,R)-di-p-anisoyltartaric acid salt) to give the title compound.

reactant | (1-(fur-3-ylmethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine | O1C=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCNCC2 | C17H20N4O
reactant | 1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-phenyl-3-(2-methanesulfonyloxyethyl)pyrrolidine | COC1=C(C(=O)N2CC(CC2)(CCOS(=O)(=O)C)C2=CC=CC=C2)C=C(C=C1)N1N=NN=C1 | C22H25N5O5S
product | 1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-(2-(4-(1-(fur-3-ylmethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-phenylpyrrolidine | COC1=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCC(CC2)NC2=NC3=C(N2CC2=COC=C2)C=CC=C3)C=C(C=C1)N1N=NN=C1 | C38H41N9O3
